US05401774
The above reaction of Example 6A is repeated except that the starting materials are mercaptobenzene and dichloromethyl methylether. Using the same reaction conditions and techniques, there is obtained 4-mercaptobenzaldehyde.

reactant | mercaptobenzene | SC1=CC=CC=C1 | C6H6S
reactant | dichloromethyl methylether | ClC(Cl)OC | C2H4Cl2O
product | 4-mercaptobenzaldehyde | SC1=CC=C(C=O)C=C1 | C7H6OS
